US07144899B2
EDC (0.388 g, 2.02 mmol), HOAt (0.275 g, 2.02 mmol), and 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-proline (prepared by standard peptide coupling protocols, 0.551 g, 1.55 mol) were added to a stirred solution of 1-[5-Chloro-2-(1,2,3-thiadiazol-4-yl)phenyl]methanamine (0.351 g, 1.555 mmol) in DMF (7.8 mL). After 16 h the mixture was partitioned between EtOAc and water. The organic layer was washed with brine, dried (Na2SO4) and concentrated in vacuo. The product was purified by flash chromatography on silica (eluting with an EtOAc/hexanes gradient, 1–100% EtOAc). 1-{(2R)-2-[(tert-Butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(1,2,3-thiadiazol-4-yl)benzyl]-L-prolinamide was obtained as a solid. MS m/z=562.6.

reactant | EDC | 2.02 mmol, 0.388 g
reactant | HOAt | 2.02 mmol, 0.275 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-proline | 1.55 mol, 0.551 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)O)CCC1)C1CCCCC1 | C18H30N2O5
reactant | 1-[5-Chloro-2-(1,2,3-thiadiazol-4-yl)phenyl]methanamine | 1.555 mmol, 0.351 g | ClC=1C=CC(=C(C1)CN)C=1N=NSC1 | C9H8ClN3S
solvent | DMF | 7.8 mL | CN(C)C=O | C3H7NO
product | 1-{(2R)-2-[(tert-Butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(1,2,3-thiadiazol-4-yl)benzyl]-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C=2N=NSC2)CCC1)C1CCCCC1 | C27H36ClN5O4S
